US06486185B1
3-[4-(1-formylpiperazin-4-yl)benzylidenyl]-2-indolinone.
A mixture of 133.15 mg (1 mmol) of 2-indolinone, 228.3 mg (1.2 mmol) of 4-(1-formylpiperazin-4-yl)benzaldehyde and 3 drops of piperidine in 2 ml of ethanol was stirred at 90° C. for 5 hr. After cooling, the precipitate was filtered, washed with cold ethanol and dried to yield 199.5 mg (65%) of the title compound as a yellow solid.

reactant | 2-indolinone | 1 mmol, 133.15 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 4-(1-formylpiperazin-4-yl)benzaldehyde | 1.2 mmol, 228.3 mg | C(=O)N1CCN(CC1)C1=CC=C(C=O)C=C1 | C12H14N2O2
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3-[4-(1-formylpiperazin-4-yl)benzylidenyl]-2-indolinone | 199.5 mg, 65% | C1CN(CCN1C=O)C2=CC=C(C=C2)/C=C/3\C4=CC=CC=C4NC3=O | C20H19N3O2
